US05877340
1.5 g of 4-chloro-2-iodo-6-nitroaniline together with 50 ml of tetrahydrofuran and 10 ml of 1-propanol are initially introduced into a stirred autoclave. 5 mg of FeCl2.4H2O and 0.3 g Pt/Pb-CaCO3 catalyst are added to the solution, and hydrogenation is carried out at 130° C. and 20 bar of hydrogen. After the hydrogenation has come to a standstill, the reaction mixture is cooled to room temperature, the reactor is rendered inert with nitrogen and the catalyst is filtered off. After filtration, the solvent is removed by distillation to give 1.3 g of 4-chloro-6-iodo-1,2-phenylenediamine as a crude product.

reactant | 4-chloro-2-iodo-6-nitroaniline | 1.5 g | ClC1=CC(=C(N)C(=C1)[N+](=O)[O-])I | C6H4ClIN2O2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
solvent | 1-propanol | 10 ml | C(CC)O | C3H8O
product | 4-chloro-6-iodo-1,2-phenylenediamine | 1.3 g | ClC1=CC(=C(C(=C1)I)N)N | C6H6ClIN2
